US05952386
To a mixture of 0.35 g of 4-(3-aminopropyloxy)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)benzene, 0.17 g of 4-chlorophenylacetic acid, 0.18 ml of triethylamine and 10 ml of dichloromethane was added 0.23 g of WSC hydrochloride, while stirring at room temperature. After stirring at room temperature for 6 hours, the reaction mixture was concentrated to give a residue. The residue was dissolved in 50 ml of ethyl acetate, and the ethyl acetate layer was successively washed with 10% hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated saline solution, dried over anhydrous magnesium sulfate, and then concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.35 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-chlorophenylacetamido)propyloxy)benzene (70% yield), m.p., 108.4° C.

reactant | 4-(3-aminopropyloxy)-3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)benzene | 0.35 g | NCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C12H13Cl4NO2
reactant | 4-chlorophenylacetic acid | 0.17 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | WSC hydrochloride | 0.23 g | CCN=C=NCCCN(C)C.Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(3-(4-chlorophenylacetamido)propyloxy)benzene | 0.35 g, 70% yield | ClC=1C=C(C=C(C1OCCCNC(CC1=CC=C(C=C1)Cl)=O)Cl)OCC=C(Cl)Cl | C20H18Cl5NO3
